US07754737B2
To a stirred solution of (S)-tert-butyl 1-(2-(trimethylsilyl)ethoxycarbonylamino)-3-cyclohexylpropan-2-ylcarbamate (6.55 g, 15.4 mmol) in MeCN (100 mL) was added Et4NF (7.5 g, 50 mmol). The mixture was stirred overnight at rt and at 60° C. for 7 h. The mixture was concentrated and the oily residue was taken up in EtOAc (175 mL). The mixture was washed with water (2×50 mL) and brine (50 mL) and dried over Na2SO4. Removal of the solvent afforded (S)-tert-butyl 1-amino-3-cyclohexylpropan-2-ylcarbamate (3.39 g, 80%) as a syrup.

reactant | (S)-tert-butyl 1-(2-(trimethylsilyl)ethoxycarbonylamino)-3-cyclohexylpropan-2-ylcarbamate | 15.4 mmol, 6.55 g | C[Si](CCOC(=O)NC[C@H](CC1CCCCC1)NC(OC(C)(C)C)=O)(C)C | C20H40N2O4Si
reactant | Et4NF | 50 mmol, 7.5 g | [N+](CC)(CC)(CC)CC.[F-]
solvent | MeCN | 100 mL | CC#N | C2H3N
product | (S)-tert-butyl 1-amino-3-cyclohexylpropan-2-ylcarbamate | 3.39 g, 80% | NC[C@H](CC1CCCCC1)NC(OC(C)(C)C)=O | C14H28N2O2
